US04617369
Preparation of 3-hydroxy,4'(4-hydroxy-phenyl)benzophenone diacetate
One hundred seventy grams (1 mole) of p-phenylphenol, 138 grams (1 mole) of 3-hydroxybenzoic acid, 400 mL of hydrogen fluoride (HF), and 170 grams of boron trifluoride were reacted for 15 hours at 0° C. under autogenous pressure in an autoclave. Then the contents were mixed in excess water/ice to precipitate a green solid. After filtering and washing with water to remove the remaining HF, the powder was slurried with water, neutralized with 80 grams sodium bicarbonate (NaHCO3) until pH=8, filtered, and washed with water. After drying at 25° C. in air for 10 hours, the solid was dissolved in 3000 ml ethyl acetate, stirred overnight, and precipitated in a blender with 6000 ml n-hexane by volume. The solid was separated by filtration, washed two times with n-hexane, and dried at 120° C. under vacuum. The product was 160 grams of a beige crystalline solid which was determined by NMR analysis to be the 3-hydroxy,4'(4 -hydroxyphenyl)-benzophenone. This solid was acetylated directly by refluxing 3 hours with 640 ml of acetic anhydride and one drop of concentrated sulfuric acid. The solution was cooled to 25° C. and allowed to stand overnight. The solid was filtered, washed with methanol, and dried at 90° C. under vacuum. The product was 150 grams of 100% pure 3-hydroxy, 4'-(4-hydroxyphenyl)benzophenone diacetate as determined by NMR analysis. Its melting point was 120°-121° C.

reactant | p-phenylphenol | 1 mole, One hundred seventy grams | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | 3-hydroxybenzoic acid | 1 mole, 138 grams | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | boron trifluoride | 170 grams | B(F)(F)F | BF3
solvent | hydrogen fluoride | 400 mL | F | FH
product | 3-hydroxy,4'(4-hydroxy-phenyl)benzophenone diacetate | C(C)(=O)O.C(C)(=O)O.OC=1C=C(C(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)O)C=CC1 | InChI=1S/C19H14O3.2C2H4O2/c20-17-10-8-14(9-11-17)13-4-6-15(7-5-13)19(22)16-2-1-3-18(21)12-16;2*1-2(3)4/h1-12,20-21H;2*1H3,(H,3,4)
